US08431596B2
Butane-1-sulfonic acid 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzylamide (XX-324)
To a stirred solution of [5-(3-aminomethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (0.03 g, 0.070 mmol) in dichloromethane (1 ml) was added triethylamine (13 μl, 0.091 mmol) followed by butanesulfonyl chloride (11 μl, 0.084 mmol). The mixture was stirred for 18 hours at room temperature, then filtered and concentrated in vacuo. The product was purified by preparatory HPLC to provide the desired product. LCMS RT: 2.66 min, MI: 549, Method: 2; 1H NMR (DMSO, 300 MHz): 9.43 (s, 1H), 8.18 (s, 1H), 8.03 (d, 1H), 7.65 (m, 6H), 7.16 (d, 1H), 6.90 (d, 2H), 4.27 (d, 2H), 4.05 (t, 2H), 2.93 (t, 2H), 2.70 (s, 4H), 2.45 (dd, 2H), 1.74 (s, 4H), 1.59 (m, 2H), 1.28 (m, 2H), 0.82 (m, 3H).

reactant | [5-(3-aminomethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | 0.070 mmol, 0.03 g | NCC=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C25H28N6O
reactant | triethylamine | 0.091 mmol, 13 μl | C(C)N(CC)CC | C6H15N
reactant | butanesulfonyl chloride | 0.084 mmol, 11 μl | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | Butane-1-sulfonic acid 3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-benzylamide | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C=2C=C(CNS(=O)(=O)CCCC)C=CC2)=N1 | C29H36N6O3S
